US05064564
To a solution of 1.02 g (4.6 mmol) of 4-(4-methoxyphenyl)phenylacetonitrile in 40 ml of tetrahydrofuran (THF) was added, at -78° C., 1.5 M n-BuLi solution in hexane in an amount of 3.6 ml (5.5 mmol). This mixture was stirred for 1 hour. Thereto were added a solution of 705 mg (5.5 mmol) of (R)-1,2-epoxyoctane in 20 ml of THF and 5 ml of HMPA. The resulting mixture was warmed to room temperature, and then stirred overnight. The reaction mixture was neutralized with 3 M hydrochloric acid, and then subjected to extraction with 300 ml of ethyl acetate. The resulting ethyl acetate solution was washed with saturated sodium chloride aqueous solution, dried with anhydrous magnesium sulfate, filtered, and then concentrated. The residue was separated and purified by column chromatography (hexane/ethyl acetate=3/1), thereby obtaining 1.05 g (yield 65%) of (4R)-4-hydroxy-2-[4-(4-methoxyphenyl)phenyl]decanenitrile.

reactant | 4-(4-methoxyphenyl)phenylacetonitrile | 4.6 mmol, 1.02 g | COC1=CC=C(C=C1)C1=CC=C(C=C1)CC#N | C15H13NO
reactant | n-BuLi | 1.5 M | [Li]CCCC
reactant | (R)-1,2-epoxyoctane | 5.5 mmol, 705 mg | O1C[C@H]1CCCCCC | C8H16O
reactant | hydrochloric acid | 3 M | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 20 ml | O1CCCC1 | C4H8O
solvent | HMPA | 5 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | (4R)-4-hydroxy-2-[4-(4-methoxyphenyl)phenyl]decanenitrile | 1.05 g, yield 65% | O[C@@H](CC(C#N)C1=CC=C(C=C1)C1=CC=C(C=C1)OC)CCCCCC | C23H29NO2
